US09119868B2
Step 5: (2-cyano-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)boronic acid
The crude 6-(N-(3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (108 mg, 0.172 mmol) was dissolved in tetrahydrofuran (4.0 mL). 1M HCl (2.059 mL, 1.029 mmol) was added followed by sodium periodate (294 mg, 1.373 mmol). The mixture was stirred at room temperature overnight. The reaction was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (2×). The organic phase was washed with 10% aq. Na2S2O3, brine, and dried over Na2SO4. After concentration, the crude residue was purified by reverse phase HPLC (10-100% MeCN/H2O with 0.1% TFA) to give the title compound as a white solid (58 mg, 62%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.60 (br. s., 1H) 8.48 (q, 1H) 8.12 (s, 1H) 7.94-8.02 (m, 2H) 7.73-7.80 (m, 2H) 7.58-7.65 (m, 1H) 7.41 (t, 2H) 7.21 (s, 1H) 3.46 (s, 3H) 2.84 (d, 3H) 2.03-2.14 (m, 1H) 0.99 (br. s., 1H) 0.85 (br. s., 2H) 0.45 (br. s., 1H). LCMS (m/z, ES+)=548 (M+H+).

reactant | 6-(N-(3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.172 mmol, 108 mg | C(#N)C=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C33H33BFN3O6S
reactant | HCl | 1.029 mmol, 1M, 2.059 mL | Cl | ClH
reactant | sodium periodate | 1.373 mmol, 294 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | (2-cyano-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)boronic acid | 58 mg, 62% | C(#N)C1=C(C=CC(=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1)B(O)O | C27H23BFN3O6S
